Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PLASTIC
 
Allergies: 
morphine
 
Attending: ___.
 
Chief Complaint:
finger swelling and pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ RHD ___, former heroin addict on Suboxone, active
IVDU, who is transferred from ___ for management 
of
left index finger infection. ___ reports ___ was pulling a
particular type of weeds with thorns last week when ___ sustained
several small cuts. ___ then noted increasing swelling & pain 
over
distal tip of his left index finger. The swelling progressed to
involve the entire digit, causing the dried skin crack over the
fingertip to open up. ___ presented to ___ where ___
received IV Abx and subsequently transferred to ___ ED for
further care. ___ denies fevers or chills. His Tetanus is not
up-to-date. ___ endorses pain proximally over tip over left index
finger & over DIPJ but not proximally. 
 
Past Medical History:
PMH:
Former heroin addict on Suboxone
Anxiety
ADHD
Hep C  

PSH: 
Left ankle fracture ORIF
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
Physical Exam on Admission:
Small poke-hole opening over tip of left index finger
Significant localized TTP & fluctuance over fingertip
Finger held in light flexion w/ fusiform swelling
No TTP along flexor tendon sheath
No worsening of pain w/ passive extension of finger
Warmth to touch over entire digit  
Arm & forearm compartments soft
Limited ROM at PIP/DIP joint, pain w/ pROM at DIPJ
Sensation intact to light touch in axillary, radial, median &
ulnar nerve distributions
Motor intact for EPL, FPL, EIP, EDC, FDP, FDI
Radial pulse palpable, fingers warm & well perfused

Physical Exam on Discharge:
Incision at right index I&D site with no significant purulence
No fluctuance
Swelling of finger improved compared to admission
Sensation intact to light touch in axillary, radial, median &
ulnar nerve distributions
Motor intact for EPL, FPL, EIP, EDC, FDP, FDI
Radial pulse palpable, fingers warm & well perfused

 
Pertinent Results:
___ 06:15AM BLOOD WBC-5.5 RBC-4.05* Hgb-11.6* Hct-35.5* 
MCV-88 MCH-28.6 MCHC-32.7 RDW-13.2 RDWSD-42.5 Plt ___
___ 05:15AM BLOOD WBC-8.6 RBC-4.32* Hgb-12.3* Hct-37.6* 
MCV-87 MCH-28.5 MCHC-32.7 RDW-13.3 RDWSD-42.0 Plt ___
___ 06:15AM BLOOD CRP-6.2*
___ 05:15AM BLOOD CRP-7.3*
 
Brief Hospital Course:
The patient was seen in the ED overnight on ___. His finger 
was I&D'ed, started on IV antibiotics and elevated in the ED. ___ 
was admitted for repeat exam. On repeat exam the following day, 
his finger was significantly improved with no further 
expressible purulence. ___ was started on TID soaks in warm 
water. The following day, his finger exam remained stable. 
Patient remained stable throughout from a cardiovascular, 
respiratory, GI and GU standpoint. His fever curve was monitored 
and ___ was afebrile throughout. ___ was initially treated with IV 
vancomycin while awaiting culture data. His culture showed MRSA 
and ___ was switched to Bactrim on discharge. On day of 
discharge, the patient was tolerating a regular diet, 
ambulatory, voiding.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ClonazePAM 1 mg PO TID 
2. Amphetamine-Dextroamphetamine 20 mg PO BID 
3. Buprenorphine-Naloxone (8mg-2mg) 1 TAB SL DAILY 

 
Discharge Medications:
1. Acetaminophen 325-650 mg PO Q6H:PRN pain 
2. Amphetamine-Dextroamphetamine 20 mg PO BID 
3. ClonazePAM 1 mg PO TID 
4. Sulfameth/Trimethoprim DS 1 TAB PO BID 
RX *sulfamethoxazole-trimethoprim 800 mg-160 mg 1 tablet(s) by 
mouth twice daily Disp #*28 Tablet Refills:*0
5. HYDROmorphone (Dilaudid) 2 mg PO Q4H:PRN Pain 
RX *hydromorphone 2 mg 1 tablet(s) by mouth every 4 hours Disp 
#*10 Tablet Refills:*0
6. Buprenorphine-Naloxone (8mg-2mg) 1 TAB SL DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left index finger felon

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Discharge instructions:
- Please remain non-weight bearing in your right hand and keep 
the dressing clean and dry.
- Please elevate your right hand above heart level as much as 
possible. You can sleep with your arm on a stack of pillows. 
This will improve your swelling and pain.
- Please continue soaks three times daily for ___ minutes with 
warm soapy water. Dry your hand off and replace the dry dressing 
after each soak.

Medications:
- Please continue your Adderall and Klonopin as you were 
previously taking them. You were prescribed a 1 day supply of 
pain medications. Please resume your Suboxone after you are 
finished with your dilaudid pills.
- You may take extra strength Tylenol for pain. Follow 
instructions on the medication bottle.
- Please take your antibiotics (Bactrim) for 14 days. 

Please call the office if:
- You notice more purulent drainage from your wound (thick 
drainage)
- Increased redness around your incisions, especially if 
tracking up your arm
- Fever > 101
 
Followup Instructions:
___